US04032525
11.9 G. of 1-[3-chloro-7-trifluoromethyl-dibenz[b,f]oxepin-10-yl]-4 -methyl-piperazine was reduced with sodium borohydride in glacial acetic acid in a manner analogous to that described in Example 14, and there is obtained crude 1-[3-chloro-10,11-dihydro-7-trifluoromethyl-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine which is recrystallized from isopropanol and melts at 110° C. The dihydrochloride, prepared in ethanol, melts at 219°-222° C. (with decomposition).

reactant | 1-[3-chloro-7-trifluoromethyl-dibenz[b,f]oxepin-10-yl]-4 -methyl-piperazine | ClC=1C=CC2=C(OC3=C(C(=C2)N2CCN(CC2)C)C=CC(=C3)C(F)(F)F)C1 | C20H18ClF3N2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-chloro-10,11-dihydro-7-trifluoromethyl-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine | ClC=1C=CC2=C(OC3=C(C(C2)N2CCN(CC2)C)C=CC(=C3)C(F)(F)F)C1 | C20H20ClF3N2O
